Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Headache
 
Major Surgical or Invasive Procedure:
Imaging-guided LP - ___

 
History of Present Illness:
Ms. ___ is a ___ female with PMH of hypertension,
spinal stenosis, recent diagnosis of shingles, who presents with
severe headache.

Patient reports that the day of admission she woke up from sleep
around 3AM with a headache, which she describes as "intense" and
"all over".  She states that this pain worsened throughout the
day.  It was associated with nausea and vomiting -reports
vomiting several times throughout the day, not able to keep
anything down.  She states that bright lights made somewhat
worse, but also that she does not normally like bright lights. 
No phonophobia, though she does note continued ear pain.  
Reports
no fevers or chills.  Did have some shooting pains at the back 
of
her neck, but no neck soreness or stiffness.  No dizziness or
lightheadedness, but not associated with falls.

On review of records, patient first presented to her PCPs office
on ___ with a rash on her face and neck.  She was diagnosed
at that time with shingles, and started on a 10-day course of
acyclovir.  She returned to urgent care on ___ with
weakness on the left side of her face.  She was diagnosed with
Bell's palsy secondary to her herpes zoster infection.  Was
started on prednisone 60 mg daily for a week.  Of note, patient
states that she was taking 60 mg 3 times a day rather than daily
(3 tabs, 3 times a day).  She return to clinic on ___, the
day of admission, with her headache as described above.  At this
time she was sent to the emergency department.

In the ED:

Initial vital signs were notable for: T 36.5, HR 63, BP 157/95,
RR 16, 98% RA 

Exam notable for:
Constitutional: Comfortable.
Head/eyes: NCAT, PERRLA, EOMI.
ENT/neck: neck supple, no rigidity or pain
Neuro: Slowed speech, but fluent, left sided facial droop that
has been ongoing for a week due to bell's palsy resulting from
shingles. strength and sensation intact in bl UE and ___. ftn in
tact. CN ___ otherwise intact with exception of CN VII on left
side.

Labs were notable for:

- CBC: WBC 11.7, hgb 13.0, plt 288 

- Lytes:

140 / 98 / 20     AGap=16 
-------------- 91 
3.4 \ 26 \ 0.8 

- LFTs: AST: 20 ALT: 19 AP: 81 Tbili: 0.5 Alb: 4.1 
- lipase 24
- lactate 1.8

Studies performed include:
- NCHCT with no evidence of acute intracranial hemorrhage.
- LP was attempted, but unable to obtain CSF sample 

Consults: ___ was consulted for an LP, which was not done at time
of admission 

Patient was given:  
___ 17:21 IVF  NS 1000 mL
___ 17:28 IV Metoclopramide 10 mg   
___ 17:28 IV DiphenhydrAMINE 25 mg  
___ 17:29 IV Acyclovir 600 mg 
___ 20:16 IV Morphine Sulfate 4 mg 

Vitals on transfer: T 98.5, HR 58, BP 158/82, RR 16, 96% RA 
 
Upon arrival to the floor, patient recounts history as above. 
She states that overall her headache is slightly better than it
was initially.

 
Past Medical History:
- hypertension 
- melanoma
- hyperlipidemia
- Gastric ulcer 
- Asthma 
- Spinal stenosis, lumbar region, with neurogenic claudication 
 
Social History:
___
Family History:
Brother ___ 
Father ___ 
Mother ___ CAD/PVD - Early (___); Gout; Hypertension 
 
Physical Exam:
VITALS: T 98.4, HR 66, BP 171/90, RR 18, 93% RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Neck supple with negative brudzinski's and kernig's signs.
Crusted over lesions on left side of face, including pinna of 
ear
and external canal. Very tender to light palpation
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: Lesions over left side of face as noted above
NEURO: Alert, oriented x3, PEERL, EOMI. Left-sided facial droop
with decreased sensation to forehead and nearly no sensation in
V2 and V3 distribution. Hearing grossly intact bilaterally.
Palate raises symmetrically, shoulder shrug normal, tongue
midline, strength ___ in upper and lower distal and proximal
muscle groups.  
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 03:15PM BLOOD WBC-11.7* RBC-4.54 Hgb-13.0 Hct-41.5 
MCV-91 MCH-28.6 MCHC-31.3* RDW-12.6 RDWSD-41.7 Plt ___
___ 03:15PM BLOOD Glucose-91 UreaN-20 Creat-0.8 Na-140 
K-3.4* Cl-98 HCO3-26 AnGap-16
___ 07:18AM BLOOD Calcium-8.6 Phos-3.9 Mg-1.9

LP RESULTS:
Tube 1: ___ 03:15PM CEREBROSPINAL FLUID (CSF) TNC-19* 
RBC-700* Polys-7 Bands-1 ___ Monos-4
Tube 4: ___ 03:15PM CEREBROSPINAL FLUID (CSF) TNC-22* 
RBC-174* Polys-6 Bands-3 ___ ___ 03:15PM CEREBROSPINAL FLUID (CSF) TotProt-36 Glucose-57

RELEVANT IMAGING:
___ NCHCT:
There is no evidence of acute, large territorial infarction, 
fracture, 
hemorrhage,edema,or mass effect.  There is mild prominence of 
the ventricles  and sulci suggestive of involutional changes.  
Periventricular white-matter hypodensities are nonspecific, 
likely sequela of chronic ischemic small vessel  disease. 
  
Hyperostosis frontalis interna is noted.  Partial opacification 
of the 
posterior ethmoid air cells.  Layering fluid within the 
bilateral sphenoid 
sinuses, left greater than right, with aerosolized component 
within the left sphenoid sinus.  The mastoid air cells are 
clear.  The visualized portion of the orbits are normal. 
  
IMPRESSION:  
1. No evidence of acute intracranial hemorrhage. 
2. Paranasal sinus disease. 

___ CTA head/neck:
FINDINGS:  
  
CT head shows no evidence of hemorrhage, or loss of gray-white 
matter 
differentiation. No midline shift or hydrocephalus seen.  
Aerosolized 
secretions and fluid level are seen in the sphenoid sinus. 
  
CT angiography of the neck shows normal appearance of the 
carotid and 
vertebral arteries without stenosis or occlusion or dissection. 
  
CT angiography of the head shows normal appearance of the 
arteries of the 
anterior and posterior circulation without stenosis or occlusion 
or aneurysm 
greater than 3 mm in size. 
  
IMPRESSION:  
No significant abnormalities on CT of the head without contrast. 
 No 
significant abnormalities on CT angiography of the head and 
neck.  Sphenoid sinus soft tissue changes. 

DISCHARGE RESULTS:
___ 06:50AM BLOOD WBC-7.4 RBC-3.83* Hgb-11.2 Hct-36.5 
MCV-95 MCH-29.2 MCHC-30.7* RDW-12.4 RDWSD-42.9 Plt ___
___ 07:00AM BLOOD Glucose-98 UreaN-13 Creat-1.0 Na-141 
K-4.4 Cl-103 HCO3-28 AnGap-10
___ 07:00AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.___ woman with PMH of hypertension, spinal stenosis, 
recent diagnosis of shingles with suspected Ramsay Hunt 
syndrome, who presented with severe headache. CT head and CTA 
head/neck showed no acute process. She underwent LP which showed 
22 WBCs, primarily lymphs, without xanthochromia. ID was 
consulted who felt this finding may represent VZV meningitis vs 
meningeal irritation from VZV, and recommended 10-day course of 
anti-viral therapy. She was treated initially with IV acyclovir, 
transitioned to valacyclovir to complete course, last day ___. 
She was also seen by neurology, who recommended initiation of 
amitriptyline for headache management, and treatment of 
neuropathic pain. Gabapentin was also uptitrated to 400mg TID. 
Lisinopril was uptitrated to 20mg from 10mg daily.

TRANSITIONAL ISSUES:
-Valtrex to finish ___
-Patient should receive shingles vaccine ___ weeks after 
resolution of symptoms
-Amitriptyline started for neuropathic pain and headache
-Gabapentin increased to 400mg TID for neuropathic pain
-Patient complaining of headaches brought on by chewing, thought 
to be related to shingles. If no improvement at f/u, would check 
ESR/CRP to evaluate for GCA
-Please refer to ___ neurology for f/u, per patient preference
-Lisinopril increased from 10mg to 20mg daily
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Omeprazole 20 mg PO BID 
3. Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line 
4. Pravastatin 40 mg PO DAILY 
5. Vitamin D ___ UNIT PO DAILY 
6. DICYCLOMine 20 mg PO TID 
7. Polyethylene Glycol 17 g PO BID 
8. TraZODone 50-100 mg PO QHS:PRN insomnia 
9. Senna 17.2 mg PO QHS 
10. Morphine SR (MS ___ 30 mg PO Q12H 
11. Gabapentin 300 mg PO TID 

 
Discharge Medications:
1.  Amitriptyline 10 mg PO QHS 
RX *amitriptyline 10 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0 
2.  Artificial Tears 2 DROP BOTH EYES QID 
RX *dextran 70-hypromellose (PF) [Artificial Tears (PF)] 0.1 
%-0.3 % ___ drops ___ four times a day Disp #*1 Bottle Refills:*2 

3.  Capsaicin 0.025% 1 Appl TP TID 
RX *capsaicin 0.025 % Apply small amount to affected area three 
times a day Refills:*1 
4.  HydrOXYzine 25 mg PO QHS:PRN itchiness 
This medication will make you drowsy. Do not drive or operate 
machinery while using this medication. 
RX *hydroxyzine HCl 25 mg 1 tab by mouth at bedtime Disp #*20 
Tablet Refills:*0 
5.  ValACYclovir 1000 mg PO TID Duration: 4 Days 
RX *valacyclovir 1,000 mg 1 tab by mouth three times a day Disp 
#*13 Tablet Refills:*0 
6.  Gabapentin 400 mg PO TID 
RX *gabapentin 400 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
7.  Lisinopril 20 mg PO DAILY 
RX *lisinopril 20 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
8.  DICYCLOMine 20 mg PO TID  
9.  Morphine SR (MS ___ 30 mg PO Q12H  
10.  Omeprazole 20 mg PO BID  
11.  Ondansetron 8 mg PO Q8H:PRN Nausea/Vomiting - First Line  
12.  Polyethylene Glycol 17 g PO BID  
13.  Pravastatin 40 mg PO DAILY  
14.  Senna 17.2 mg PO QHS  
15.  TraZODone 50-100 mg PO QHS:PRN insomnia  
16.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Shingles with meningeal irritation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the hospital with a headache. While you were here, 
you had a lumbar puncture which showed irritation due to 
shingles. You were started on anti-viral medication, as well as 
medications to help your headache. You should continue the 
anti-viral medication (valacyclovir, also called Valtrex) until 
___. You should also use artificial tears as needed for dry 
eyes, and use your eye patch at night until your eye is closing 
completely.

Please follow-up with your PCP as scheduled below. At this 
visit, you may request a referral to neurology for further 
follow-up.

It was a pleasure participating in your care.

Sincerely,
Your ___ Team
 
Followup Instructions:
___